US09399636B2
Preparation of 6-(3,3-difluoropyrrolidin-1-yl)-4-(1-(oxetan-3-yl)azetidin-3-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)pyridin-2-amine
To a solution of 4-(azetidin-3-yl)-6-(3,3-difluoropyrrolidin-1-yl)-N-[4-(trifluoromethyl)-2-pyridyl]pyridin-2-amine (1-d, 200 mg, 0.5008 mmol) in 1,4-dioxane (3.0 mL, 35 mmol) and N-ethyldiisopropylamine (0.26 mL, 3.0 equiv., 1.502 mmol) was added 3-oxetanone (219 mg, 6.0 equiv., 3.005 mmol), and the reaction was stirred at 50° C. for 1.5 h. After the reaction was cooled down, sodium triacetoxyborohydride (447 mg, 4.0 equiv., 2.003 mmol) was added in portions. The reaction was stirred at 25° C. overnight. The crude was submitted for HPLC purification to yield 7.5 mg (3.3%) white powder. 1H NMR (400 MHz, DMSO-d6) δ (delta) 9.91 (s, 1H), 8.70 (s, 1H), 8.44 (d, J=5.4 Hz, 1H), 7.14 (d, J=5.3 Hz, 1H), 6.62 (s, 1H), 6.00 (s, 1H), 4.58 (t, J=6.7 Hz, 2H), 4.41 (t, J=5.9 Hz, 2H), 3.85 (t, J=13.2 Hz, 2H), 3.75 (p, J=6.2 Hz, 1H), 3.63 (q, J=6.4, 6.0 Hz, 4H), 3.54 (p, J=7.7, 7.1 Hz, 1H), 3.20 (t, J=6.6 Hz, 2H), 2.58 (td, J=14.5, 7.3 Hz, 2H). LCMS: m/z 456 (M+H).

reactant | 4-(azetidin-3-yl)-6-(3,3-difluoropyrrolidin-1-yl)-N-[4-(trifluoromethyl)-2-pyridyl]pyridin-2-amine | 0.5008 mmol, 200 mg | N1CC(C1)C1=CC(=NC(=C1)N1CC(CC1)(F)F)NC1=NC=CC(=C1)C(F)(F)F | C18H18F5N5
reactant | 1,4-dioxane | 35 mmol, 3.0 mL | O1CCOCC1 | C4H8O2
reactant | N-ethyldiisopropylamine | 1.502 mmol, 0.26 mL, 3.0 equiv. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-oxetanone | 3.005 mmol, 219 mg, 6.0 equiv. | O1CC(C1)=O | C3H4O2
reactant | sodium triacetoxyborohydride | 2.003 mmol, 447 mg, 4.0 equiv. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 6-(3,3-difluoropyrrolidin-1-yl)-4-(1-(oxetan-3-yl)azetidin-3-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)pyridin-2-amine | 7.5 mg, 3.3% | FC1(CN(CC1)C1=CC(=CC(=N1)NC1=NC=CC(=C1)C(F)(F)F)C1CN(C1)C1COC1)F | C21H22F5N5O
